US06916838B1
A) 3-Chloro-1-(4-chloro-3-methylphenyl)propan-1-one
23.43 ml of 2-chlorotoluene and 26.6 g of 3-chloropropionyl chloride are mixed in 25 ml of carbon sulfide and 32 g of AlCl3 in 125 ml of carbon sulfide are added over 45 minutes. After stirring for 3 hours at RT, the solvent is evaporated and then 1 liter of water is added. The reaction medium is extracted with ether and then with benzene, and then the organic phase is washed with a saturated Na2CO3 solution and then with water. It is dried over Na2SO4 and then the residue is chromatographed on a silica column, eluting with an AcOEt/cyclohexane (5/95; v/v) mixture. 27.25 g of the expected compound are obtained.

reactant | 2-chlorotoluene | 23.43 ml | ClC1=C(C=CC=C1)C | C7H7Cl
reactant | 3-chloropropionyl chloride | 26.6 g | ClCCC(=O)Cl | C3H4Cl2O
reactant | AlCl3 | 32 g | [Al+3].[Cl-].[Cl-].[Cl-]
solvent | carbon sulfide | 25 ml | [C]=S | CS
solvent | carbon sulfide | 125 ml | [C]=S | CS
product | 3-Chloro-1-(4-chloro-3-methylphenyl)propan-1-one | 27.25 g | ClCCC(=O)C1=CC(=C(C=C1)Cl)C | C10H10Cl2O
